US05025031
4-(4,5-Dihydro-1-methyl-1H-imidazol-2-yl)phenol hemihydrate
Anhydrous hydrogen chloride gas was bubbled into a cold (0° C.) stirred solution of p-cyanophenol (30 g, 0.25 mole) in 120 ml methanol for 70 min. The resultant heavy suspension was stopped and stirred overnight. After cooling in an ice bath, the solid was collected by filtration and rinsed twice with cold methanol. The solid was then dried under nitrogen to a weight of 46.56 g. The solid was resuspended in 150 ml methanol, chilled in an ice bath, and N-methylethylenediamine (22 g, 0.25 mole) was added. The reaction became a clear solution and it was heated at reflux temperature for one hour. The solvent was then evaporated and the residual oil was dissolved in water. It was basified first using 50% sodium hydroxide solution and then using sodium bicarbonate solution. The solid was collected by filtration and rinsed with water, 2-propanol, and isopropyl ether. The slightly wet solid weighed 20.71 g. The mother liquor and rinsings were combined and concentrated to yield a second crop which weighed 22.55 g. A portion of the first crop was recrystallized from acetonitrile/methanol, filtered and dried, mp 122°-125° C.

reactant | p-cyanophenol | 0.25 mole, 30 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | N-methylethylenediamine | 0.25 mole, 22 g | CNCCN | C3H10N2
reactant | methanol | 120 ml | CO | CH4O
product | 4-(4,5-Dihydro-1-methyl-1H-imidazol-2-yl)phenol hemihydrate | O.CN1C(=NCC1)C1=CC=C(C=C1)O.CN1C(=NCC1)C1=CC=C(C=C1)O | InChI=1S/2C10H12N2O.H2O/c2*1-12-7-6-11-10(12)8-2-4-9(13)5-3-8;/h2*2-5,13H,6-7H2,1H3;1H2
